### PR TITLE
[Merged by Bors] - chore: bump to v4.3.0-rc2

### PR DESCRIPTION
**Pull request by kim-em**
# PR contents

This is the supremum of

- #8284
- #8056
- #8023
- #8332
- #8226 (already approved)
- #7834 (already approved)

along with some minor fixes from failures on nightly-testing as Mathlib `master` is merged into it.

Note that some PRs for changes that are already compatible with the current toolchain and will be necessary have already been split out: #8380.

I am hopeful that in future we will be able to progressively merge adaptation PRs into a `bump/v4.X.0` branch, so we never end up with a "big merge" like this. However one of these adaptation PRs (#8056) predates my new scheme for combined CI, and it wasn't possible to keep that PR viable in the meantime.

# Lean PRs involved in this bump

In particular this includes adjustments for the Lean PRs

* leanprover/lean4#2778 
* leanprover/lean4#2790
* leanprover/lean4#2783
* leanprover/lean4#2825
* leanprover/lean4#2722

## leanprover/lean4#2778

We can get rid of all the 
```
local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y) -- Porting note: See issue lean4#2220
```
macros across Mathlib (and in any projects that want to write natural number powers of reals).

## leanprover/lean4#2722

Changes the default behaviour of `simp` to `(config := {decide := false})`. This makes `simp` (and consequentially `norm_num`) less powerful, but also more consistent, and less likely to blow up in long failures. This requires a variety of changes: changing some previously by `simp` or `norm_num` to `decide` or `rfl`, or adding `(config := {decide := true})`. 

## leanprover/lean4#2783

This changed the behaviour of `simp` so that `simp [f]` will only unfold "fully applied" occurrences of `f`. The old behaviour can be recovered with `simp (config := { unfoldPartialApp := true })`. We may in future add a syntax for this, e.g. `simp [!f]`; please provide feedback! In the meantime, we have made the following changes:
* switching to using explicit lemmas that have the intended level of application
* `(config := { unfoldPartialApp := true })` in some places, to recover the old behaviour
* Using `@[eqns]` to manually adjust the equation lemmas for a particular definition, recovering the old behaviour just for that definition. See #8371, where we do this for `Function.comp` and `Function.flip`.

This change in Lean may require further changes down the line (e.g. adding the `!f` syntax, and/or upstreaming the special treatment for `Function.comp` and `Function.flip`, and/or removing this special treatment). Please keep an open and skeptical mind about these changes!

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: scripts/count-transitive-imports.lean
Comment (eric-wieser) [inline scripts/count-transitive-imports.lean:1]: https://github.com/leanprover-community/mathlib4/pull/8023/files#r1390391045

**Comment by kmill** [comment]
I'm looking at this right now

**Comment by eric-wieser** [comment]
It looks like in my changes to #8023 I forgot to fix a proof in the archive; I'll do that now, but let you do the merge from that PR back into this one

**Comment by kmill** [comment]
@eric-wieser I'm done -- I got mathlib itself to compile locally.

**Comment by eric-wieser** [comment]
I've pushed the fix in https://github.com/leanprover-community/mathlib4/pull/8023, and am waiting for CI to go green before merging it prematurely here.

If there's time, I'd like to see what the fallout from #8371 is (which is a master-targeted #8023); I'll cherry-pick fixes so that there are no merge conflicts.

File: Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean [hunk 1]
```diff
@@ -97,7 +97,7 @@ instance instAlgebra : Algebra R (CliffordAlgebra Q) := instAlgebra' _
 
 instance {R S A M} [CommSemiring R] [CommSemiring S] [AddCommGroup M] [CommRing A]
     [Algebra R A] [Algebra S A] [Module R M] [Module S M] [Module A M] (Q : QuadraticForm A M)
-    [IsScalarTower R A M] [IsScalarTower S A M] [SMulCommClass R S A] :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean:100]: What happened here?

File: Mathlib/Algebra/FreeAlgebra.lean [hunk 2]
```diff
@@ -282,7 +282,7 @@ instance {R S A} [CommSemiring R] [CommSemiring S] [CommSemiring A]
     rw [smul_assoc, ←smul_one_mul]
 
 instance {R S A} [CommSemiring R] [CommSemiring S] [CommSemiring A]
-    [Algebra R A] [Algebra S A] [SMulCommClass R S A] :
```
Comment (eric-wieser) [inline Mathlib/Algebra/FreeAlgebra.lean:285]: Or maybe I should ask, what happened here? Did the unused argument linter get beefed up?

File: Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean:100]: Ah nevermind, #8226

File: Mathlib/Algebra/Group/Defs.lean [hunk 3]
```diff
@@ -86,6 +89,8 @@ infixl:65 " +ᵥ " => HVAdd.hVAdd
 infixl:65 " -ᵥ " => VSub.vsub
 infixr:73 " • " => HSMul.hSMul
 
+macro_rules | `($x • $y) => `(leftact% HSMul.hSMul $x $y)
```
Comment (jcommelin) [inline Mathlib/Algebra/Group/Defs.lean:92]: I assume this line is there to propage those coercions to `y` instead of `x`?
In any case, it would be good to document why this line is here.
And please mention this behaviour in the commit message as well.

File: Mathlib/Analysis/NormedSpace/PiLp.lean [hunk 4]
```diff
@@ -64,8 +64,6 @@ We also set up the theory for `PseudoEMetricSpace` and `PseudoMetricSpace`.
 
 set_option linter.uppercaseLean3 false
 
-local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y) -- Porting note: See issue lean4#2220
```
Comment (jcommelin) [inline Mathlib/Analysis/NormedSpace/PiLp.lean:67]: Feel free to also mention in the commit message that we no longer need this line :octopus: :tada: :cartwheeling:!!

File: Mathlib/CategoryTheory/Category/KleisliCat.lean [hunk 5]
```diff
@@ -52,7 +52,7 @@ instance KleisliCat.category {m} [Monad.{u, v} m] [LawfulMonad m] : Category (Kl
   -- refine' { id_comp' := _, comp_id' := _, assoc' := _ } <;> intros <;> ext <;> unfold_projs <;>
   --  simp only [(· >=> ·), functor_norm]
   refine' { id_comp := _, comp_id := _, assoc := _ } <;> intros <;> refine funext (fun x => ?_) <;>
-  simp [CategoryStruct.id, CategoryStruct.comp, (· >=> ·)]
+  simp (config := { unfoldPartialApp := true }) [CategoryStruct.id, CategoryStruct.comp, (· >=> ·)]
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Category/KleisliCat.lean:55]: Can you please mention this simp config in the commit message?

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 6]
```diff
@@ -61,7 +61,7 @@ theorem card : Fintype.card KleinFour = 4 :=
 
 /-- Klein four-group is a group of order 4. -/
 theorem nat_card : Nat.card KleinFour = 4 := by
-  simp only [Nat.card_eq_fintype_card]
+  simp (config := {decide := true}) only [Nat.card_eq_fintype_card]
```
Comment (jcommelin) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:64]: And maybe mention this simp config as well?

File: Mathlib/Algebra/Group/Defs.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Group/Defs.lean:92]: Isn't "propagate *to* `y`" backwards? My understanding is that by default Lean propagates coercions inwards, but this `%leftact` and `%binop` stuff reverses the behavior and propagates them outwards...

Comment (kmill) [reply Mathlib/Algebra/Group/Defs.lean:92]: It makes it so that it participates in the expression tree elaborator on the `y` argument. It computes a type that all the leaf expressions can be coerced to and then inserts coercions where needed. All the basic algebraic operators participate, and the effect is that coercion can propagate into `y` rather than getting stuck around the whole smul expression.

Comment (kmill) [reply Mathlib/Algebra/Group/Defs.lean:92]: There's an example in the RFC https://github.com/leanprover/lean4/issues/2854

Comment (jcommelin) [reply Mathlib/Algebra/Group/Defs.lean:92]: @kmill Would you mind writing that little documentation above this line?

Comment (kmill) [reply Mathlib/Algebra/Group/Defs.lean:127]: @jcommelin Done. I updated the changes to the HSMul documentation too (I forgot there was anything there, and now I see why you phrased your question the way you did).

File: Archive/Imo/Imo1964Q1.lean [hunk 7]
```diff
@@ -34,7 +34,7 @@ theorem two_pow_mod_seven (n : ℕ) : 2 ^ n ≡ 2 ^ (n % 3) [MOD 7] :=
   let t := n % 3
   calc 2 ^ n = 2 ^ (3 * (n / 3) + t) := by rw [Nat.div_add_mod]
     _ = (2 ^ 3) ^ (n / 3) * 2 ^ t := by rw [pow_add, pow_mul]
-    _ ≡ 1 ^ (n / 3) * 2 ^ t [MOD 7] := by gcongr; norm_num
+    _ ≡ 1 ^ (n / 3) * 2 ^ t [MOD 7] := by gcongr; decide
```
[the remark this answers is not in the document]
Comment (kmill) [reply Archive/Imo/Imo1964Q1.lean:37]: I think a lot of these `decide`s are actually just a fancy way to write `rfl`, for what it's worth.

My understanding is that `norm_num` was calling `simp`, which itself was calling `decide`, and that's what turned out to be what was closing the goal. Now that `simp` doesn't call `decide`, this broke a bunch of maybe-not-actually-`norm_num` proofs.

File: Archive/ZagierTwoSquares.lean [hunk 8]
```diff
@@ -143,11 +144,12 @@ theorem eq_of_mem_fixedPoints {t : zagierSet k} (mem : t ∈ fixedPoints (comple
...
   split_ifs at mem with less more <;>
     -- less (completely handled by the pre-applied `simp_all only`)
-    simp_all only [not_lt, Prod.mk.injEq, add_right_eq_self, mul_eq_zero, false_or]
+    simp_all only [not_lt, Prod.mk.injEq, add_right_eq_self, mul_eq_zero, false_or,
+      lt_self_iff_false]
   · -- more
     obtain ⟨_, _, _⟩ := mem; simp_all
   · -- middle (the one fixed point falls under this case)
-    simp only [zagierSet, Set.mem_setOf_eq] at h
+    simp [zagierSet, Set.mem_setOf_eq] at h
```
Comment (b-mehta) [inline Archive/ZagierTwoSquares.lean:152]: This is a new non-terminal simp right?

Comment (kmill) [reply Archive/ZagierTwoSquares.lean]: Fixed (turns out it wasn't necessary to remove `only`)

File: Archive/Imo/Imo1964Q1.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (semorrison) [reply Archive/Imo/Imo1964Q1.lean:37]: No, this isn't actually it: `simp` was already not calling `decide` on `v4.3.0-rc1`: #7834. The real change is from https://github.com/leanprover/lean4/pull/2790, which causes `maxRecursionDepth` errors to surface. 

These are breaking `norm_num`.

File: Mathlib/Algebra/Group/Defs.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/Algebra/Group/Defs.lean:130]: I've also added more detail in the PR description.

File: Archive/Examples/IfNormalization/Result.lean [hunk 9]
```diff
@@ -107,6 +107,7 @@ def normalize (l : AList (fun _ : ℕ => Bool)) :
     | some b =>
       have i' := normalize l (.ite (lit b) t e); ⟨i'.1, ◾⟩
   termination_by normalize e => e.normSize
+  decreasing_by { decreasing_with simp (config := { arith := true }) [Zero.zero]; done }
```
[the remark this answers is not in the document]
Comment (semorrison) [reply Archive/Examples/IfNormalization/Result.lean]: I've fixed this. Thanks for the skepticism.

File: Mathlib/CategoryTheory/Category/KleisliCat.lean (hunk 5 above)
Comment (semorrison) [reply Mathlib/CategoryTheory/Category/KleisliCat.lean:55]: Done.

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean (hunk 6 above)
Comment (semorrison) [reply Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:64]: Done.

**Comment by jcommelin** [comment]
The commit message now contains the line

> This PR currently uses nightly-2023-11-12, but likely this will become v4.3.0-rc2 tomorrow.

I guess this should be updated.

There's also a merge conflict concerning the lakefile. Apart from that, LGTM

bors d+

**Comment by semorrison** [comment]
bors p=10

**Comment by semorrison** [comment]
bors merge

**Comment by semorrison** [comment]
bors merge
